US04284634
Starting from a mixture of an oil (2.5 g) of 2-benzyloxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate in acetone (25 ml) and 6 N hydrochloric acid (2 ml) was obtained a reddish oil (2.05 g) of 2-benzyloxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate, in a substantially similar manner to that of Example 2-6).

reactant | 2-benzyloxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate | 2.5 g | CC=1NC(=C(C(C1C(=O)OCCOCC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C(OCC)OCC | C30H36N2O9
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 6 N, 2 ml | Cl | ClH
product | 2-benzyloxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 2.05 g | CC=1NC(=C(C(C1C(=O)OCCOCC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C26H26N2O8
